### PR TITLE
[Merged by Bors] - Add floor_real_sqrt_eq_nat_sqrt

### PR DESCRIPTION
**Pull request by Jun2M**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Real/Sqrt.lean [hunk 1]
```diff
@@ -450,6 +450,18 @@ theorem real_sqrt_le_nat_sqrt_succ {a : ℕ} : √(a : ℝ) ≤ Nat.sqrt a + 1 :
     exact le_of_lt (Nat.lt_succ_sqrt' a)
 #align real.real_sqrt_le_nat_sqrt_succ Real.real_sqrt_le_nat_sqrt_succ
 
+/-- The real square root is less than the natural square root plus one -/
+theorem real_sqrt_lt_nat_sqrt_succ {a : ℕ} : √(a : ℝ) < Nat.sqrt a + 1 := by
+  rw [sqrt_lt (by simp)] <;>
+  norm_cast
+  exact Nat.lt_succ_sqrt' a
+  exact Nat.le_add_left 0 (Nat.sqrt a + 1)
```
Comment (eric-wieser) [inline Mathlib/Data/Real/Sqrt.lean:458]: When there are multiple goals like this, the best practice is to put `·` before each goal.

File: Mathlib/Data/Real/Sqrt.lean [hunk 2]
```diff
@@ -450,6 +450,18 @@ theorem real_sqrt_le_nat_sqrt_succ {a : ℕ} : √(a : ℝ) ≤ Nat.sqrt a + 1 :
     exact le_of_lt (Nat.lt_succ_sqrt' a)
 #align real.real_sqrt_le_nat_sqrt_succ Real.real_sqrt_le_nat_sqrt_succ
 
+/-- The real square root is less than the natural square root plus one -/
+theorem real_sqrt_lt_nat_sqrt_succ {a : ℕ} : √(a : ℝ) < Nat.sqrt a + 1 := by
+  rw [sqrt_lt (by simp)] <;>
+  norm_cast
```
Comment (eric-wieser) [inline Mathlib/Data/Real/Sqrt.lean:456]: I think usually we put the thing after `<;>` on the same line

File: Mathlib/Data/Real/Sqrt.lean [hunk 3]
```diff
@@ -450,6 +450,18 @@ theorem real_sqrt_le_nat_sqrt_succ {a : ℕ} : √(a : ℝ) ≤ Nat.sqrt a + 1 :
...
+  exact Nat.lt_succ_sqrt' a
+  exact Nat.le_add_left 0 (Nat.sqrt a + 1)
+
+/-- The floor of the real square root is the same as the natural square root. -/
+theorem floor_real_sqrt_eq_nat_sqrt {a : ℕ} : ⌊√(a : ℝ)⌋ = Nat.sqrt a := by
```
Comment (eric-wieser) [inline Mathlib/Data/Real/Sqrt.lean:461]: Can you add the `Nat.floor` version too (which has a slightly different notation)?

**Review by eric-wieser — COMMENTED** [review]
This looks pretty good, thanks! Just a few small comments.

File: Mathlib/Data/Real/Sqrt.lean [hunk 4]
```diff
@@ -450,6 +450,22 @@ theorem real_sqrt_le_nat_sqrt_succ {a : ℕ} : √(a : ℝ) ≤ Nat.sqrt a + 1 :
...
+  · exact Nat.lt_succ_sqrt' a
+  · exact Nat.le_add_left 0 (Nat.sqrt a + 1)
+
+/-- The floor of the real square root is the same as the natural square root. -/
+theorem floor_real_sqrt_eq_nat_sqrt {a : ℕ} : ⌊√(a : ℝ)⌋ = Nat.sqrt a := by
+  rw [Int.floor_eq_iff]
+  exact ⟨nat_sqrt_le_real_sqrt, real_sqrt_lt_nat_sqrt_succ⟩
+
+/-- The natural floor of the real square root is the same as the natural square root. -/
+theorem nat_floor_real_sqrt_eq_nat_sqrt {a : ℕ} : ⌊√(a : ℝ)⌋₊ = Nat.sqrt a := by
```
Comment (eric-wieser) [inline Mathlib/Data/Real/Sqrt.lean:465]: I think this lemma and the one above should both be `@[simp]`

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks, just two `@[simp]` attributes to add.

I think these names are rather bad, but they match the ones already in the file, so correcting them is a problem for another time.
